US08314098B2
(Step 2): N-{3-Bromo-2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidin-5-yl}-N′-(3-methyl-benzylidene)-hydrazine (Compound 5)
There was suspended, in ethanol (2 mL), 3-bromo-5-chloro-2-(4-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidine (21.7 mg, 0.0532 mM) and then potassium carbonate (9.2 mg, 0.067 mM) and hydrazine monohydrate (13.0 μL, 0.268 mM) were added to the resulting suspension. This suspension was stirred at 150° C. for 10 minutes under the irradiation with microwaves, diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate and the solvent was then distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (13.0 μL, 0.106 mM) were added to the suspension and the resulting mixture was stirred at room temperature for 2 hours. This reaction mixture was filtered and then the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) to thus give the title compound (6.3 mg, overall yield of these two steps: 23%).

reactant | 3-bromo-5-chloro-2-(4-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidine | 0.0532 mM, 21.7 mg | BrC=1C(=NN2C1N=C(C=C2N2CCOCC2)Cl)C2=CC=C(C=C2)C | C17H16BrClN4O
reactant | potassium carbonate | 0.067 mM, 9.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | 0.268 mM, 13.0 μL | O.NN
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | N-{3-Bromo-2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidin-5-yl}-N′-(3-methyl-benzylidene)-hydrazine | BrC=1C(=NN2C1N=C(C=C2N2CCOCC2)NN=CC2=CC(=CC=C2)C)C2=CC=C(C=C2)C | C25H25BrN6O
